US04288593
53.6 g of 2-chloro-4,6-bis-(2,2,6,6-tetramethyl-4-piperidyl-butylamino)-1,3,5-triazine in 200 ml of ethylenediamine are refluxed for 24 hours. 200 ml of toluene and 100 ml of 30% sodium hydroxide solution are added to the reaction mixture and the resulting mixture is stirred vigorously for 30 minutes. The aqueous solution is separated off and the toluene solution is washed with twice 200 ml of water, dried over sodium sulfate and evaporated. The 2-(2-aminoethylamino)-4,6-bis-(2,2,6,6-tetramethyl-4-piperidyl-butylamino)-1,3,5-triazine thus obtained is dissolved in 200 ml of xylene and the resulting solution is cooled to 5°. 6.1 g of cyanuric chloride are introduced at this temperature and the reaction mixture is stirred at 5°-10° for 1 hour. After adding 1.4 g of finely powdered sodium hydroxide, the temperature is raised to 35°-40° and the mixture is stirred for 2 hours at this temperature. After adding a fresh portion of 1.4 g of sodium hydroxide, the mixture is heated slowly to the reflux temperature. After refluxing for 3 hours, a final portion of 1.4 g of sodium hydroxide is added and the reaction mixture is then stirred under reflux for 18 hours. After cooling, 200 ml of water are added, the mixture is stirred well for 10 minutes, the aqueous solution is separated off and the xylene solution is washed with 3 times 100 ml of water. The xylene solution is evaporated in vacuo and the residue is then dried under a high vacuum (130°/0.001 mm Hg). The resulting glassy, yellowish mass can be comminuted to a virtually colourless powder. The light stabiliser having the above structural formula melts at about 140°.

reactant | 2-chloro-4,6-bis-(2,2,6,6-tetramethyl-4-piperidyl-butylamino)-1,3,5-triazine | 53.6 g | ClC1=NC(=NC(=N1)N(CCCC)C1CC(NC(C1)(C)C)(C)C)N(CCCC)C1CC(NC(C1)(C)C)(C)C | C29H54ClN7
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | ethylenediamine | 200 ml | C(CN)N | C2H8N2
product | 2-(2-aminoethylamino)-4,6-bis-(2,2,6,6-tetramethyl-4-piperidyl-butylamino)-1,3,5-triazine | NCCNC1=NC(=NC(=N1)N(CCCC)C1CC(NC(C1)(C)C)(C)C)N(CCCC)C1CC(NC(C1)(C)C)(C)C | C31H61N9
